US06846819B1
a) N-methyl benzothiophene-2-carboxamide
To a stirred solution of 2.0 M methylamine in THF (60 mL) and THF (60 mL) was added dropwise at 0° C. a solution of benzothiophene-2-carbonyl chloride (10.8 g, 55 mmole) in THF (50 mL) over 15 minutes. After the addition the reaction was allowed to warm to RT then was concentrated under vacuum. Trituration with a cold solution of 4:1H2Q/methanol (50 mL), filtration, and drying under vacuum gave the title compound (10.35 g. 98%) as a white solid: MS (ES) m/e 191.9 (M+H)+.

reactant | methylamine | 2.0 M | CN | CH5N
reactant | benzothiophene-2-carbonyl chloride | 55 mmole, 10.8 g | S1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClOS
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-methyl benzothiophene-2-carboxamide | 10.35 g, 98% | CNC(=O)C=1SC2=C(C1)C=CC=C2 | C10H9NOS
